US07807671B2
Preparation of 1-(7-bromo-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (Compound B-1)
2-(7-bromo-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid (5.0 g, 17.5 mmol) was dissolved in DMF (100 mL) and treated with 1-(1-phenyl-1H-tetrazol-5-yl)piperazine (4.0 g, 17.5 mmol), Hunig's base (9.2 mL, 52.6 mmol) and TBTU (5.6 g, 17.5 mmol) and the reaction mixture was stirred at rt for 18 h. Solvent was removed in vacuum and water was added. A white solid precipitated out and it was collected by filtration and recrystallized twice with MeOH to afford the title compound (4.58 g) as a white solid. The mother liquid was concentrated and purified using silica gel (CH2Cl2 to 5% MeOH/CH2Cl2) to afford more title compound (1.8 g).

reactant | 2-(7-bromo-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid | 17.5 mmol, 5.0 g | BrC=1N=CC(=C2C1NC=C2C(C(=O)O)=O)F | C9H4BrFN2O3
reactant | 1-(1-phenyl-1H-tetrazol-5-yl)piperazine | 17.5 mmol, 4.0 g | C1(=CC=CC=C1)N1N=NN=C1N1CCNCC1 | C11H14N6
reactant | Hunig's base | 52.6 mmol, 9.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 17.5 mmol, 5.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-(7-bromo-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 4.58 g | BrC=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)F | C20H16BrFN8O2
